US08278290B2
5-Iodo-5-methoxyphenol (125 mg, 0.5 mmol), 3-(2-furyl)-1-(3,4,5-trimethoxyphenyl)-prop-2-yn-1-one (172 mg, 0.6 mmol), LiCl (21.2 mg, 0.5 mmol) and Na2CO3 (265 mg, 2.5 mmol) were added to anhydrous DMF (3 ml) and flushed with N2 three times. Pd(OAc)2 was added to the reaction mixture and again flushed with N2. The reaction mixture was heated to 100-105° C. for 6 h and then reaction was cooled to room temp. Quenched by addition of aqueous NH4Cl solution and extracted with EtOAc. 2-(2-Furyl)-6-methoxy-3-(3,4,5-trimethoxybenzoyl)benzo[b]furan was isolated in 12% yield by silica gel column chromatography using 20 to 40% EtOAc in hexane. 1H NMR (300 MHz, CDCl3) δ: 3.75(s, 6H, OMe), 3.86(s, 3H, OMe), 3.90(s, 3H, OMe), 6.44-6.46(m, 1H), 6.87(dd, J=2.1, 8.7, 1H), 6.97(d, J=3.6, 1H), 7.07(d, J=2.1, 1H), 7.15(s, 2H), 7.36(d, J=8.7, 1H), 7.41(d, J=1.2, 1H). MS (ES) m/z: 408.9(M+H)+.

reactant | 5-Iodo-5-methoxyphenol | 0.5 mmol, 125 mg | IC1(CC=CC(=C1)O)OC | C7H9IO2
reactant | 3-(2-furyl)-1-(3,4,5-trimethoxyphenyl)-prop-2-yn-1-one | 0.6 mmol, 172 mg | O1C(=CC=C1)C#CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C16H14O5
reactant | LiCl | 0.5 mmol, 21.2 mg | [Li+].[Cl-]
reactant | Na2CO3 | 2.5 mmol, 265 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(2-Furyl)-6-methoxy-3-(3,4,5-trimethoxybenzoyl)benzo[b]furan | 12% yield | O1C(=CC=C1)C1=C(C2=C(O1)C=C(C=C2)OC)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C23H20O7
